US08802697B2
Synthesis of 7-(2-aminophenylamino)-3-(2,6-dichloro-3,5-dimethoxyphenyl)-1,8-dimethyl-1,6-naphthyridin-2(1H)-one
To a solution of 3-(2,6-dichloro-3,5-dimethoxyphenyl)-1,8-dimethyl-7-(2-nitrophenylamino)-1,6-naphthyridin-2(1H)-one (100 mg, 0.2 mmol) in ethyl acetate (20 mL) was added stannous chloride (150 mg, 0.8 mmol), and the mixture was stirred at 80° C. for 1 h. LCMS monitored the reaction was completed. The solid was filtered off, and the filtrate was concentrated. The residue was purified by Prep-HPLC to get the title compound (38.6 mg, 41%) as a yellow solid. MS (ES+) C24H22Cl2N4O3 requires: 484, 486. found: 485, 487 [M+H]+; 1H-NMR (500 MHz, DMSO-d6) δ ppm 8.24 (s, 1H), 7.76 (s, 1H), 7.67 (s, 1H), 7.03 (d, 1H, J=7.5 Hz), 6.97 (s, 1H), 6.92-6.89 (m, 1H), 6.75-6.73 (m, 1H), 6.57-6.54 (m, 1H), 4.77 (s, 2H), 3.95 (s, 6H), 3.66 (s, 3H), 2.43 (s, 3H).

reactant | 3-(2,6-dichloro-3,5-dimethoxyphenyl)-1,8-dimethyl-7-(2-nitrophenylamino)-1,6-naphthyridin-2(1H)-one | 0.2 mmol, 100 mg | ClC1=C(C(=C(C=C1OC)OC)Cl)C=1C(N(C2=C(C(=NC=C2C1)NC1=C(C=CC=C1)[N+](=O)[O-])C)C)=O | C24H20Cl2N4O5
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 7-(2-aminophenylamino)-3-(2,6-dichloro-3,5-dimethoxyphenyl)-1,8-dimethyl-1,6-naphthyridin-2(1H)-one | 38.6 mg, 41% | NC1=C(C=CC=C1)NC1=NC=C2C=C(C(N(C2=C1C)C)=O)C1=C(C(=CC(=C1Cl)OC)OC)Cl | C24H22Cl2N4O3
